US07790895B2
To a solution of 4-benzoyl-pyridine-3-carbaldehyde (110 mg, 0.52 mmol) in THF (3 mL) at −78° C. was added 1.0 M 2,5-dimethoxymagnesium bromide in THF (1.04 mL) and the reaction mixture was stirred for 15 min. The reaction mixture was then quenched with aqueous ammonium chloride and extracted with ethyl acetate. The organic layer was dried over sodium sulfate, concentrated, and the residue purified by chromatography of silica gel with 5% methanol in dichloromethane to yield {3-[(2,5-dimethoxy-phenyl)-hydroxy-methyl]-pyridin-4-yl}-phenyl-methanone as a white solid.

reactant | 4-benzoyl-pyridine-3-carbaldehyde | 0.52 mmol, 110 mg | C(C1=CC=CC=C1)(=O)C1=C(C=NC=C1)C=O | C13H9NO2
reactant | THF | 3 mL | C1CCOC1 | C4H8O
reactant | THF | 1.04 mL | C1CCOC1 | C4H8O
product | {3-[(2,5-dimethoxy-phenyl)-hydroxy-methyl]-pyridin-4-yl}-phenyl-methanone | COC1=C(C=C(C=C1)OC)C(C=1C=NC=CC1C(=O)C1=CC=CC=C1)O | C21H19NO4
